US06103708
2-Acetoxy-4-[4-(2-benzyl-4,5-dimethyl-thiophene-3-carbonyl)-2-cyclopentyl-phenoxysulfonyl]-benzoic Acid
The title compound was prepared according to the procedure in Example 22 using 4-[4-(2-benzyl-4,5-dimethyl-thiophene-3-carbonyl)-2-cyclopentyl-phenoxysulfonyl]-2-hydroxy-benzoic acid (0.233 g, 0.394 mmol), magnesium iodide (0.110 g, 0.394 mmol) and acetic anhydride (3.3 mL) in ether. Purification on 2% H3PO4 /MeOH treated silica gel, eluting with 18% EtOAc/pet ether followed by a second chromatography on 2% H3PO4 /MeOH treated silica gel, eluting with 5% CH3CN/CH2Cl2 gave 0.128 g (51%) of the title compound as a white solid, mp 94-96° C. 1H NMR (DMSO-d6) δ 1.24-1.33 (m, 2 H), 1.52-1.57 (m, 2 H), 1.61-1.76 (m, 4 H), 1.79 (s, 3 H), 2.23 (s, 3 H), 2.26 (s, 3 H), 2.94 (quintet, 1 H), 3.85 (s, 2 H), 6.99-7.01 (m, 2 H), 7.13 (m, 4 H), 7.52 (dd, 1 H), 7.59 (d, 1 H), 7.84 (d, 1 H), 7.90 (dd, 1 H), 8.14 (d, 1 H), 13.8 (br s, 1 H). mass spectrum (-ESI) m/z 631 (M-H). Anal. Calcd. for C34H32O8S2.0.2H2O: C, 64.17; H, 5.13; N, 0.00. Found: C, 64.06; H, 4.98; N, 0.04.

reactant | 4-[4-(2-benzyl-4,5-dimethyl-thiophene-3-carbonyl)-2-cyclopentyl-phenoxysulfonyl]-2-hydroxy-benzoic acid | 0.394 mmol, 0.233 g | C(C1=CC=CC=C1)C=1SC(=C(C1C(=O)C1=CC(=C(OS(=O)(=O)C2=CC(=C(C(=O)O)C=C2)O)C=C1)C1CCCC1)C)C | C32H30O7S2
reactant | magnesium iodide | 0.394 mmol, 0.110 g | [I-].[Mg+2].[I-]
reactant | acetic anhydride | 3.3 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | CCOCC | C4H10O
product | 2-Acetoxy-4-[4-(2-benzyl-4,5-dimethyl-thiophene-3-carbonyl)-2-cyclopentyl-phenoxysulfonyl]-benzoic Acid | 0.128 g, 51% | C(C)(=O)OC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)OC1=C(C=C(C=C1)C(=O)C1=C(SC(=C1C)C)CC1=CC=CC=C1)C1CCCC1 | C34H32O8S2
